US04174400
1,2-Diamino-4-(2,2-dichloro-1-methylethenyl) benzene
A mixture of 2.1 g. (8.5 mmoles) of 1-amino 2-nitro-4-(2,2-dichloro-1-methylethenyl) benzene 2.1 g. (0.038 moles) of iron powder is suspended in 80 ml. of 40% ethanol and refluxed for 30 minutes. The reaction mixture is filtered while hot, the solid material washed with ethanol and extracted with chloroform and evaporated to dryness in vacuo affording 1.66 g. of a brown glassy substance, which is used as is in the next step.

reactant | 1-amino 2-nitro-4-(2,2-dichloro-1-methylethenyl) benzene | 8.5 mmoles, 2.1 g | NC1=C(C=C(C=C1)C(=C(Cl)Cl)C)[N+](=O)[O-] | C9H8Cl2N2O2
catalyst | iron | 0.038 moles | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 1,2-Diamino-4-(2,2-dichloro-1-methylethenyl) benzene | NC1=C(C=C(C=C1)C(=C(Cl)Cl)C)N | C9H10Cl2N2
